US05294612
To a mixture of tert-butylhydrazine (40 g, 0.32 mol), sodium methoxide (18 g, 0.32 mol) and ethanol 150 ml) was added ethoxymethylene malononitrile (42 g, 0.32 mol). The reaction mixture was heated to reflux for 2 hours and the solvent was removed in vacuo. The residue was extracted with chloroform, washed with water and the organic layer was concentrated in vacuo to afford 46 g (87%) of 1-tert-butyl-5-amino-1H-pyrazole-4-carbonitrile as a semi-solid.

reactant | tert-butylhydrazine | 0.32 mol, 40 g | C(C)(C)(C)NN | C4H12N2
reactant | sodium methoxide | 0.32 mol, 18 g | C[O-].[Na+]
reactant | ethoxymethylene malononitrile | 0.32 mol, 42 g | C(C)OC=C(C#N)C#N | C6H6N2O
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 1-tert-butyl-5-amino-1H-pyrazole-4-carbonitrile | 46 g, 87% | C(C)(C)(C)N1N=CC(=C1N)C#N | C8H12N4
